US04772600
2-(2-Pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid 1,1-dimethylethyl ester
Under a nitrogen atmosphere, N,N-dimethylformamide-di-tert-butyl acetal (8.12 g, 0.040 mole) was added dropwise over a 20-minute period to a stirred, refluxing suspension of 2-(2-pyridyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (2.54 g, 0.010 mole) in anhydrous benzene (50 ml). The resulting solution was refluxed for 1 hour and allowed to cool to room temperature. The reaction mixture was washed with 10% potassium carbonate solution (2×25 ml), water (25 ml), dried over sodium sulfate and concentrated in vacuo. The residue (3.5 g) was dissolved in tetrahydrofuran and treated with excess ethereal hydrogen chloride. The crystalline solid was recrystallized from tetrahydrofuran, giving 1.5 g (43%). Drying in vacuo at 65° C. for 8 hours and then at 78° C. overnight gave 1.4 g of the compound as the free base, mp 124°-125.5° C.

reactant | N,N-dimethylformamide-di-tert-butyl acetal | 0.040 mole, 8.12 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 2-(2-pyridyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.010 mole, 2.54 g | N1=C(C=CC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H10N4O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-Pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid 1,1-dimethylethyl ester | 1.4 g | CC(C)(C)OC(CN1C(=NC=2C1=NC=CC2)C2=NC=CC=C2)=O | C17H18N4O2
